US04994477
Benzyl Indole-2-carboxylate
A solution of 19.9 g (124 mmol) of indole-2-carboxylic acid, 16 ml (155 mmol) of benzyl alcohol, and 3.0 g (25 mmol) of 4-dimethylaminopyridine in 800 ml of dichloromethane was treated with 25.6 g (124 mmol) of N,N'-dicyclohexylcarbodiimide and stirred at ambient temperature for 2.5 h. The resulting mixture was filtered, concentrated in vacuo, taken up in 1 l of ethyl acetate, and filtered. The solution was subsequently washed sequentially with 1N NCl, H2O, saturated NaHCO3, and saturated brine, dried over MgSO4, and concentrated. Recrystallization of the residue from ethyl acetate/hexane gave three crops of crystalline material containing 15.79 g, 11.13 g, and 2.25 g of the desired compound (94%). 1H NMR (CDCl3) δ 5.40 (s,2H), 7.26 (br t,1H), 7.3-7.5 (m,8H), 7.69 (br d,1H), 8.9 (br s,1H). Mass spectrum: (M+H)+ =252.

reactant | indole-2-carboxylic acid | 124 mmol, 19.9 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | benzyl alcohol | 155 mmol, 16 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | N,N'-dicyclohexylcarbodiimide | 124 mmol, 25.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 25 mmol, 3.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | Benzyl Indole-2-carboxylate | 2.25 g, 94% | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
